US09428528B2
Step 2 Preparation of 1-{(4S,5R)-5-[4-(6-Chloromethyl-pyridin-3-yl)-phenyl]-4-fluoromethyl-2,2-dimethyl-oxazolidin-3-yl}-2,2-difluoro-ethanone
A stirred solution of 2,2-Difluoro-1-{(4S,5R)-4-fluoromethyl-5-[4-(6-hydroxy-methyl-pyridin-3-yl)-phenyl]-2,2-dimethyl-oxazolidin-3-yl}-ethanone (1660 mg, 4.2 mmol) and triethylamine (0.88 ml, 6.31 mmol) in CH2Cl2 (30 ml) is treated with methanesulfonyl chloride (0.49 ml, 6.31 mmol) and stirred at ambient temperature for 16 hours. The reaction mixture is concentrated to dryness to afford the title compound as a red oil (1.53 g): 1H NMR (400 MHz, CDCl3) 1.60-1.77 (m, 6H), 4.53-4.84 (m, 5H), 5.25-5.31 (m, 1H), 6.12 (t, 1H), 7.58 (d, 2H), 7.65 (d, 2H), 7.68 (d, 1H), 8.03-8.07 (m, 1H), 8.86-8.90 (m, 1H). m/z M+H 413.

reactant | 2,2-Difluoro-1-{(4S,5R)-4-fluoromethyl-5-[4-(6-hydroxy-methyl-pyridin-3-yl)-phenyl]-2,2-dimethyl-oxazolidin-3-yl}-ethanone | 4.2 mmol, 1660 mg | FC(C(=O)N1C(O[C@@H]([C@H]1CF)C1=CC=C(C=C1)C=1C(=NC(=CC1)O)C)(C)C)F | C20H21F3N2O3
reactant | triethylamine | 6.31 mmol, 0.88 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 6.31 mmol, 0.49 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
product | 1-{(4S,5R)-5-[4-(6-Chloromethyl-pyridin-3-yl)-phenyl]-4-fluoromethyl-2,2-dimethyl-oxazolidin-3-yl}-2,2-difluoro-ethanone | 1.53 g | ClCC1=CC=C(C=N1)C1=CC=C(C=C1)[C@@H]1[C@H](N(C(O1)(C)C)C(C(F)F)=O)CF | C20H20ClF3N2O2
